US04711958
Hydrogen chloride was passed into a suspension of 1.0 g of (2R, 3S)-3-amino-4-cyclohexyl-2-hydroxy butyric acid hydrochloride in 10 ml of isopropyl alcohol with stirring under ice-cooling, and the mixture was heated under reflux for 2 hours. After evaporation of the reaction mixture, benzene was added to the residue and the mixture was evaporated under reduced pressure. The residue was dissolved in 10 ml of ethyl acetate and the precipitated crystals were collected by filtration to obtain 1.0 g of (2R, 3S)3-amino-4-cyclohexyl-2-hydroxybutyric acid isopropyl ester hydrochloride as a white powder.

reactant | Hydrogen chloride | Cl | ClH
reactant | (2R, 3S)-3-amino-4-cyclohexyl-2-hydroxy butyric acid hydrochloride | 1.0 g | Cl.N[C@H]([C@H](C(=O)O)O)CC1CCCCC1
reactant | isopropyl alcohol | 10 ml | C(C)(C)O | C3H8O
product | (2R, 3S)3-amino-4-cyclohexyl-2-hydroxybutyric acid isopropyl ester hydrochloride | 1.0 g | Cl.C(C)(C)OC([C@@H]([C@H](CC1CCCCC1)N)O)=O | InChI=1S/C13H25NO3.ClH/c1-9(2)17-13(16)12(15)11(14)8-10-6-4-3-5-7-10;/h9-12,15H,3-8,14H2,1-2H3;1H/t11-,12+;/m0./s1
